US05576322
4-(3-Amino-4-chlorobenzyl)amino-6-chloroquinazoline
A mixture comprising 1.00 g (2.86 mmol) of 4-(4-chloro-3-nitrobenzyl)amino-6-chloroquinazoline, 0.85 g of powdered iron, 10 ml of acetic acid and 50 ml of ethanol was heated under reflux for several hours and distilled under a reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane) to give 0.91 g of the title compound as a pale-yellow crystal.

reactant | 4-(4-chloro-3-nitrobenzyl)amino-6-chloroquinazoline | 2.86 mmol, 1.00 g | ClC1=C(C=C(CNC2=NC=NC3=CC=C(C=C23)Cl)C=C1)[N+](=O)[O-] | C15H10Cl2N4O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 0.85 g | [Fe] | Fe
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3-Amino-4-chlorobenzyl)amino-6-chloroquinazoline | 0.91 g | NC=1C=C(CNC2=NC=NC3=CC=C(C=C23)Cl)C=CC1Cl | C15H12Cl2N4
